US07192982B2
Step 1a: methyl 3-hydroxy-2-methoxy-3-[4(phenylmethoxy)phenyl]propanoate (a)
Sodium bis-(trimethylsilyl)amide (440 mL 0.44 mol 1.0 M in THF) was cooled to −70° C. under a nitrogen atmosphere. A solution of 4-benzyloxybenzaldehyde (85 g, 0.4 mol) and methyl methoxyacetate (52 g, 0.5 mol) in THF (0.5 L) was added dropwise at −70° C. over 2 hours, and the mixture was stirred for an hour. A solution of concentrated HCl (85 mL) and water (85 mL) was added at −70° C. The resulting solution was allowed to warm to ambient temperature and was extracted with MTBE (2×0.5 L). The combined extracts were washed with brine (0.5 L), dried (MgSO4), filtered, and concentrated under to give 133 g of a red oil.

reactant | Sodium bis-(trimethylsilyl)amide | 0.44 mol, 1.0 M, 440 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-benzyloxybenzaldehyde | 0.4 mol, 85 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | methyl methoxyacetate | 0.5 mol, 52 g | COCC(=O)OC | C4H8O3
reactant | HCl | 85 mL | Cl | ClH
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
solvent | water | 85 mL | O | H2O
product | methyl 3-hydroxy-2-methoxy-3-[4(phenylmethoxy)phenyl]propanoate | 133 g | OC(C(C(=O)OC)OC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H20O5
